US07875715B2
Intermediate 158: 6,7-Dimethoxyquinoxalin-2(1H)-one
A mixture of 1,2-dimethoxy-4,5-dinitrobenzene (5.7 g, 25.0 mmol) in ethanol/acetic acid (140 mL, 1:1) was hydrogenated over palladium on carbon (10%, 1 g) at normal pressure and room temperature for 3 hours, then filtered through a pad of celite. The filtrate containing the crude diamine was treated with ethyl oxoacetate (50 wt % in toluene, 10 mL, 50 mmol) and the reaction was stirred at room temperature overnight. The resulting precipitate was collected by filtration. This material was suspended in a mixture of methanol/dichloromethane and solvent was removed under reduced pressure to remove traces of acetic acid to give 2.0 g (38%) of product as a solid.

reactant | 1,2-dimethoxy-4,5-dinitrobenzene | 25.0 mmol, 5.7 g | COC1=C(C=C(C(=C1)[N+](=O)[O-])[N+](=O)[O-])OC | C8H8N2O6
reactant | ethyl oxoacetate | 50 mmol, 10 mL | O=CC(=O)OCC | C4H6O3
solvent | ethanol acetic acid | 140 mL | C(C)O.C(C)(=O)O
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | 6,7-Dimethoxyquinoxalin-2(1H)-one | 2.0 g, 38% | COC=1C=C2N=CC(NC2=CC1OC)=O | C10H10N2O3
